US07056917B2
5-(1-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}methylidene)-1,3-thiazolidine-2,4-dione
8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]-pyrimidine-3-carbaldehyde (18 mg) and 2,4-thiazolidinedione (53 mg) were added with benzene (10 ml), piperidine (one drop) and acetic acid (two drops) and refluxed by heating for 3 hours in a vessel provided with a Dean-Stark trap. After the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography to obtain the title compound (17 mg) as yellow powder.

reactant | 8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]-pyrimidine-3-carbaldehyde | 18 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)C=O)=O)C=C1 | C21H24N4O3S
reactant | 2,4-thiazolidinedione | 53 mg | S1C(NC(C1)=O)=O | C3H3NO2S
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
catalyst | acetic acid | two drops | C(C)(=O)O | C2H4O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 5-(1-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}methylidene)-1,3-thiazolidine-2,4-dione | 17 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)C=C2C(NC(S2)=O)=O)=O)C=C1 | C24H25N5O4S2
